US07732442B2
N-[5-bromo-3-hydroxypyridin-2-yl]-4-methylbenzenesulfonamide
With 4-methylbenzenesulfonyl chloride, 6-bromo-[1,3]-oxazolo[4,5-b]pyridin-2(3H)-one (described in Heterocycles, 41, 2799 (1995)) was allowed to react. Then, with an aqueous solution of sodium hydroxide, the mixture was hydrolyzed to give the title compound having the following physical data.

reactant | 4-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 6-bromo-[1,3]-oxazolo[4,5-b]pyridin-2(3H)-one | BrC=1C=C2C(=NC1)NC(O2)=O | C6H3BrN2O2
reactant | sodium hydroxide | [OH-].[Na+]
product | N-[5-bromo-3-hydroxypyridin-2-yl]-4-methylbenzenesulfonamide | BrC=1C=C(C(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C)O | C12H11BrN2O3S
